US20010037042A1
Preparation of 4-methoxybiphenyl
Phenylboric acid (366 mg, 3.0 mmols), palladium acetate (4.49 mg, 0.02 mmols), diadamantyl phosphine (12.1 mg, 0.04 mmols) and potassium triphosphate (1.273 g, 6 mmols) are placed in 6 ml of dioxane and water (0.18 ml, 10 mmols) under argon. The reaction mixture is heated in an oil bath of 100° C. and stirred for 5 minutes. Afterwards, 4-chloroanisole (0.27 ml, 2 mmols) is added. The reaction mixture is then stirred for 18 hours at 100° C. and subsequently cooled. The title compound is purified by flash chromatography over silica gel. The yield is 84%.

reactant | Phenylboric acid | 3.0 mmols, 366 mg | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | diadamantyl phosphine | 0.04 mmols, 12.1 mg | C12(CC3CC(CC(C1)C3)C2)PC23CC1CC(CC(C2)C1)C3 | C20H31P
reactant | potassium triphosphate | 6 mmols, 1.273 g | [O-]P([O-])(=O)OP(=O)([O-])OP(=O)([O-])[O-].[K+].[K+].[K+].[K+].[K+]
reactant | water | 10 mmols, 0.18 ml | O | H2O
reactant | 4-chloroanisole | 2 mmols, 0.27 ml | ClC1=CC=C(C=C1)OC | C7H7ClO
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.02 mmols, 4.49 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-methoxybiphenyl | yield is 84% | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
